US05412137
To a solution of 7.1 ml of 1,4-butanediol in 40 ml of dimethylformamide, 1.8 gms of sodium hydride are added; and the reaction mixture is stirred at room temperature for 15 minutes. To this solution is added 7.6 ml of bromononane and the reaction mixture is stirred at room temperature for 44 hours. The reaction mixture is then partitioned between ethyl acetate and water and the organic layer is washed with brine, dried over sodum sulfate, filtered, and concentrated under vacuum. The residue is flash chromatographed with an 8/1 ratio of ethyl acetate and hexane to give 4-nonyloxybutanol as a clear colorless liquid.

reactant | 1,4-butanediol | 7.1 ml | C(CCCO)O | C4H10O2
reactant | sodium hydride | 1.8 gms | [H-].[Na+]
reactant | bromononane | 7.6 ml | BrCCCCCCCCC | C9H19Br
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-nonyloxybutanol | C(CCCCCCCC)OCCCCO | C13H28O2
